US05574055
(RS)-3-(4-Cyclopropyl-phenyl)-5-methoxymethyl-oxazolidin-2-one
3.0 g (10.48 mmol) of (RS)-5-methoxymethyl-3-(4-bromo-phenyl)-oxazolidin-2-one, 6.29 g (6.29 mmol) of triphenylphosphine, 0.88 g (1.25 mmol) of bis(triphenylphosphine)palladium-II dichloride, 3.73 g of lithium chloride, 1 spatula tip of 2,6-di-tert-butyl-p-cresol and 6.94 g of tributyl-cyclopropylstannane in 50 ml of DMF were stirred at 120° for 6 hours. The reaction mixture was treated with water and 1N sodium hydroxide solution and extracted with ether. The crude product obtained was chromatographed on a 30-fold amount of silica gel. The extracts which were uniform according to tlc (silica gel, ethyl acetate-hexane 1:1) were pooled and the solvent was distilled off. 0.3 g of colorless crystals was obtained from tert-butyl methyl ether/hexane. M.p. 58°-60°.

reactant | (RS)-5-methoxymethyl-3-(4-bromo-phenyl)-oxazolidin-2-one | 10.48 mmol, 3.0 g | COCC1CN(C(O1)=O)C1=CC=C(C=C1)Br | C11H12BrNO3
reactant | triphenylphosphine | 6.29 mmol, 6.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 3.73 g | [Cl-].[Li+]
reactant | 2,6-di-tert-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | tributyl-cyclopropylstannane | 6.94 g | C(CCC)[Sn](C1CC1)(CCCC)CCCC
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium | 1.25 mmol, 0.88 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | water | O | H2O
product | (RS)-3-(4-Cyclopropyl-phenyl)-5-methoxymethyl-oxazolidin-2-one | 0.3 g | C1(CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C14H17NO3
